US09403835B2
Step 3: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(morpholin-3-ylmethoxy)-phenyl]-methanone
A 4M solution of HCl in 1,4-dioxane (3.2 mL; 12.7 mmol; 10 eq.) was added to a suspension of 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxymethyl]-morpholine-4-carboxylic acid tert-butyl ester (690 mg; 1.27 mmol; 1 eq.) in 1,4-dioxane (10 mL) followed by WATER (130 μL) and the resulting mixture was stirred at room temperature for 16 hours. After concentration in vacuo, the residue was partitioned between DCM and 1M NaOH and the aqueous layer was extracted with DCM. The combined organic phase was dried over sodium sulfate and concentrated in vacuo. Crystallization from EA afforded the title compound (240 mg, 43%) as a yellow solid. 1H NMR (CDCl3) δ 7.44-7.30 (m, 2H), 7.13-7.01 (m, 1H), 6.96 (dd, J=8.2, 4.0 Hz, 1H), 5.07-4.96 (m, 2H), 4.68-4.55 (m, 2H), 4.03-3.89 (m, 2H), 3.85-3.76 (m, 1H), 3.76-3.66 (m, 1H), 3.51-3.39 (m, 1H), 3.31 (t, J=10.0 Hz, 1H), 3.25-3.12 (m, 1H), 2.95-2.76 (m, 5H), 2.69 (s, 1.1H), 2.61 (s, 1.9H), 1.94 (brs, 1H). HPLC (max plot) 94.4%, Rt 2.72 min. UPLC/MS: (MS+) 442.5 ([M+H]+).

reactant | HCl | Cl | ClH
reactant | 3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxymethyl]-morpholine-4-carboxylic acid tert-butyl ester | 1.27 mmol, 690 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C(COCC1)COC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C27H32ClN5O5
reactant | WATER | 130 μL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 12.7 mmol, 3.2 mL, 10 eq. | O1CCOCC1 | C4H8O2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(morpholin-3-ylmethoxy)-phenyl]-methanone | 240 mg, 43% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OCC3NCCOC3)C | C22H24ClN5O3
